US08975282B2
Step 3) 4-((6-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)pyridin-3-yl)oxy)picolinamide
To a solution of N-(5-hydroxypyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (468 mg, 1.4 mmol) in DMF (30 mL) was added potassium tert-butoxide (486 mg, 4.33 mmol). The solution was stirred at rt for 20 minutes, followed by the addition of 4-chloropicolinamide (293 mg, 1.87 mmol). The reaction was heated at 120° C. for 2 hours, then cooled to rt, diluted with water (15 mL) and extracted with EtOAc (20 mL×3). The combined organic phases were washed with brine (20 mL) and concentrated in vacuo. The residue was purified by a silica column chromatography (DCM/MeOH (v/v)=50/1) to give the title compound as an off-white solid (285 mg, 44%).

reactant | N-(5-hydroxypyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 1.4 mmol, 468 mg | OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C17H16N4O3
reactant | potassium tert-butoxide | 4.33 mmol, 486 mg | CC(C)([O-])C.[K+]
reactant | 4-chloropicolinamide | 1.87 mmol, 293 mg | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | 4-((6-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)pyridin-3-yl)oxy)picolinamide | 285 mg, 44% | CN1N(C(C(=C1C)C(=O)NC1=CC=C(C=N1)OC1=CC(=NC=C1)C(=O)N)=O)C1=CC=CC=C1 | C23H20N6O4
